US07645789B2
tert-Butyl 2-(1-ethoxy-1-oxopropan-2-yl)-1H-indole-1-carboxylate (2.77 g, 8.74 mmol) was dissolved in dichloromethane (25 mL) before TFA (9.8 mL) was added. The mixture was stirred for 1.5 h at room temperature. The mixture was evaporated to dryness, taken up in dichloromethane and washed with sat. aq. sodium bicarbonate, water, and brine. The product was purified by column chromatography on silica gel (0-20% EtOAc in hexane) to give ethyl 2-(1H-indol-2-yl)propanoate (0.92 g, 50%).

reactant | tert-Butyl 2-(1-ethoxy-1-oxopropan-2-yl)-1H-indole-1-carboxylate | 8.74 mmol, 2.77 g | C(C)OC(C(C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C18H23NO4
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | TFA | 9.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 2-(1H-indol-2-yl)propanoate | 0.92 g, 50% | N1C(=CC2=CC=CC=C12)C(C(=O)OCC)C | C13H15NO2
